US07834008B2
To a solution of (1S,5R)-1-phenyl-3-oxa-bicyclo[3.1.0]hexan-2-one (10.5 g, 60.0 mmol) in CH2Cl2 (200 mL) was added AlCl3 (16.0 g, 120 mmol) and then the mixture was cooled to 0° C., and then benzyl methyl amine (240 mmol, as a 2.0M solution of benzyl methyl amine in THF) was added slowly. The mixture was stirred at room temperature for 24 h, and then the reaction was quenched with saturated aqueous NH4Cl. After addition of CH2Cl2 and H2O, the resulting mixture was partitioned. The organic layer was washed with 1N HCl and brine, dried (Na2SO4), evaporated, and purified by column chromatography (silica gel; AcOEt/hexane, 1:4) to give (1S,2R)-2-Hydroxymethyl-1-phenyl-cyclopropanecarboxylic acid benzyl-methyl-amide.

reactant | (1S,5R)-1-phenyl-3-oxa-bicyclo[3.1.0]hexan-2-one | 60.0 mmol, 10.5 g | C1(=CC=CC=C1)[C@]12C(OC[C@@H]2C1)=O | C11H10O2
reactant | AlCl3 | 120 mmol, 16.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | benzyl methyl amine | C(C1=CC=CC=C1)NC | C8H11N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | (1S,2R)-2-Hydroxymethyl-1-phenyl-cyclopropanecarboxylic acid benzyl-methyl-amide | C(C1=CC=CC=C1)N(C(=O)[C@@]1([C@@H](C1)CO)C1=CC=CC=C1)C | C19H21NO2
